US08314100B2
1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine (Compound 153)
Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate and 1-(3,4,5-trimethoxyphenyl)piperazine were reacted by the same way with the example 148 to obtain the titled compound (yield, 92%).

reactant | Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(OCC)=O | C13H15N3O4
reactant | 1-(3,4,5-trimethoxyphenyl)piperazine | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
product | 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine | 92% | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(=O)N1CCN(CC1)C1=CC(=C(C(=C1)OC)OC)OC | C24H29N5O6
